US20010047099A1
C. Methyl 3,4,6-Trichloropyridine-2-carboxylate
To methyl 3,6-dichloropicolinate N-oxide (5.0 g, 22.52 mmol) dissolved in 15 mL of acetonitrile was added POCl3 (4.20 mL, 45.04 mmol). The reaction mixture was stirred at reflux for 5 hr, cooled to room temperature and concentrated to dryness in vacuo. The resultant orange oil was dissolved in diethyl ether. Carefully, saturated sodium bicarbonate was added and the aqueous phase was extracted with diethyl ether (2×100 mL). The combined extracts were dried (MgSO4) and concentrated to dryness. Purification by column chromatography (silica gel) using an eluent of 20% ethyl acetate/hexane gave 5.89 g of a light yellow solid. 1H NMR(CDCl3): δ 4.00 (s, 3H); 7.55 (s, 1H).

reactant | methyl 3,6-dichloropicolinate N-oxide | 22.52 mmol, 5.0 g | ClC1=C([N+](=C(C=C1)Cl)[O-])C(=O)OC | C7H5Cl2NO3
reactant | POCl3 | 45.04 mmol, 4.20 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Methyl 3,4,6-Trichloropyridine-2-carboxylate | 5.89 g | ClC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4Cl3NO2
